US05719141
b) 1-Benzyl-3(R,S)-acetyl-1,2,3,4-tetrahydroquinoline
0.78 ml of oxalyl chloride is dissolved in 15 ml of methylene chloride and the solution is cooled to -65° C. First 0.85 ml of dimethyl sulfoxide and then a solution 1.6 g of 1-benzyl-3(R,S)-(1-hydroxyethyl)-1,2,3,4-tetrahydroquinoline and 3.3 ml of triethylamine in 25 ml of methylene chloride are added dropwise at this temperature. After 3 h, 10 ml of a 20% potassium hydrogen sulfate solution are added. The crude product is extracted with methylene chloride and purified by means of FC over 500 g of silica gel (mobile phase D): Rf (D)=0.27.

reactant | oxalyl chloride | 0.78 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 0.85 ml | CS(=O)C | C2H6OS
reactant | 1-benzyl-3(R,S)-(1-hydroxyethyl)-1,2,3,4-tetrahydroquinoline | 1.6 g | C(C1=CC=CC=C1)N1CC(CC2=CC=CC=C12)C(C)O | C18H21NO
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 3.3 ml | C(C)N(CC)CC | C6H15N
product | 1-Benzyl-3(R,S)-acetyl-1,2,3,4-tetrahydroquinoline | C(C1=CC=CC=C1)N1CC(CC2=CC=CC=C12)C(C)=O | C18H19NO
